US06790846B2
l) 3-(4-Fluorophenyl)-4-(2-methylsulfanyl-pyrimidin-4-yl)-2H-isoxazol-5-one
Using the procedure from Example 1k set forth above, substitute 3-(4-fluorophenyl)-3-oxo-2-(2-methylsulfanyl-pyrimidin-4-yl)-propionic acid ethyl ester for 2-(4-fluorophenyl)-3-oxo-3-pyridin4-yl-propiornc acid methyl ester and ethanol for pyridine to produce the title compound.

reactant | 3-(4-fluorophenyl)-3-oxo-2-(2-methylsulfanyl-pyrimidin-4-yl)-propionic acid ethyl ester | C(C)OC(C(C(=O)C1=CC=C(C=C1)F)C1=NC(=NC=C1)SC)=O | C16H15FN2O3S
reactant | ethanol | C(C)O | C2H6O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-(4-Fluorophenyl)-4-(2-methylsulfanyl-pyrimidin-4-yl)-2H-isoxazol-5-one | FC1=CC=C(C=C1)C=1NOC(C1C1=NC(=NC=C1)SC)=O | C14H10FN3O2S
